US06080764
1.13 ml of triethylamine was dropwise added, at room temperature, to a solution of 1 g of 2-(3,4-diethoxyphenyl)-4-(2-carboxy-6-pyridyl)thiazole, 245 mg of dimethylamine hydrochloride and 515 mg of diethyl cyanophosphate in 15 ml of dimethylformamide. The mixture was stirred at the same temperature for 3 hours. The reaction mixture was mixed with 20 ml of water. The resulting mixture was extracted with 50 ml of dichloromethane three times. The dichloromethane layer was dried over sodium sulfate and concentrated. The residue was recrystallized from n-hexane-ethyl acetate-dichloromethane to obtain 800 mg of 2-(3,4-diethoxyphenyl)-4-(2-dimethylaminocarbonyl-6-pyridyl)thiazole.

reactant | triethylamine | 1.13 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(3,4-diethoxyphenyl)-4-(2-carboxy-6-pyridyl)thiazole | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC=CC(=N1)C(=O)O | C19H18N2O4S
reactant | dimethylamine hydrochloride | 245 mg | Cl.CNC
reactant | diethyl cyanophosphate | 515 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-(3,4-diethoxyphenyl)-4-(2-dimethylaminocarbonyl-6-pyridyl)thiazole | 800 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC=CC(=N1)C(=O)N(C)C | C21H23N3O3S
